US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6-(1H-pyrazol-1-yl)pyridazine-3-carboxamide
6-(1H-pyrazol-1-yl)pyridazine-3-carboxylic acid (100 mg, 0.53 mmol) was coupled with (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile as described in Example 34(d). Crude product was purified twice by CombiFlash (1st column: silica, eluent: 0-100% EtOAc in heptane; 2nd column: silica, eluent: 0-15% MeOH in DCM) to obtain 54 mg (26%) of the title compound. 1H-NMR (400 MHz; DMSO): δ 1.23 (d, 3H), 4.35-4.50 (m, 2H), 4.51-4.64 (m, 1H), 6.75 (dd, 1H), 6.94 (d, 1H), 7.87 (d, 1H), 7.92-7.98 (m, 2H), 8.03 (dd, 2H), 8.30 (m, 2H), 8.87 (d, 1H), 9.38 (d, 1H).

reactant | 6-(1H-pyrazol-1-yl)pyridazine-3-carboxylic acid | 0.53 mmol, 100 mg | N1(N=CC=C1)C1=CC=C(N=N1)C(=O)O | C8H6N4O2
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6-(1H-pyrazol-1-yl)pyridazine-3-carboxamide | 54 mg, 26% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=NC(=CC1)N1N=CC=C1 | C21H17ClN8O
